US07378525B2
4-(4-Carboxy-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (76 mg, 0.17 mmol) was dissolved in dichloromethane (2 mL). 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride (32 mg, 0.17 mmol) was added followed by cyclohexylamine (21 mg, 24 ml, 0.21 mmol). The reaction was stirred overnight at room temperature. The reaction was diluted with dichloromethane (15 ml0 and charged to a separatory funnel. The organic layer was washed twice with water, brine and dried over MgSO4. Filtration and concentration in vacuo afforded a clear oil that was subjected to flash column chromatography (96:4 dichloromethane:methanol). Concentration of the more polar fractions afforded 4-[4-(3-dimethylamino-propylcarbamoyl)-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid tert-butyl ester (F-30) as a yellow solid. Wt.: 40 mg, (45%). 1H NMR (300 MHz, CDCl3) δ 9.05 (s, 1H), 7.98 (d, 1H), 7.31 (d, 1H), 5.02 (d, 1H), 3.96 (m, 3H), 3.37 (m, 2H), 3.20 (m, 2H), 2.83 (m, 4H), 2.70 (s, 6H), 2.14 (m, 2H), 1.97 (m, 2H), 1.83 (m, 4H), 1.42 (s, 9H), 1.32 (m, 4H); LC/MS m/z 523 (M+H)+. Concentration of the less polar fractions afforded 4-(4-cyclohexylcarbamoyl-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester (F-31) as a clear oil. Wt.: 28 mg (32%) 1H NMR (300 MHz, CDCl3) δ 7.87 (d, 1H), 7.20 (d, 1H), 5.73 (d, 1H), 4.38 (d, 1H), 3.91 (m, 3H), 3.22 (m, 1H), 3.12 (m, 2H), 2.89 (m, 2H), 2.73 (m, 2H), 2.03 (m, 2H), 1.78 (m, 8H), 1.74 (m, 2H), 1.43 (s, 9H), 1.27 (m, 6H); LC/MS m/z 518 (M−H)31 .

reactant | 4-(4-Carboxy-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino)-piperidine-1-carboxylic acid tert-butyl ester | 0.17 mmol, 76 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)C(=O)O | C21H30N2O6S
reactant | 1-[3-(Dimethylamino)propyl]-3-ethylcarbodiimide hydrochloride | 0.17 mmol, 32 mg | Cl.CN(CCCN=C=NCC)C
reactant | cyclohexylamine | 0.21 mmol, 24 ml, 21 mg | C1(CCCCC1)N | C6H13N
reactant | methanol | CO | CH4O
solvent | dichloromethane | 2 mL | ClCCl | CH2Cl2
product | 4-[4-(3-dimethylamino-propylcarbamoyl)-5,6,7,8-tetrahydro-naphthalene-1-sulfonylamino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=CC=C(C=2CCCCC12)C(NCCCN(C)C)=O | C26H42N4O5S
